US07585886B2
A 2 ml dichloromethane solution of methyl 3-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}oxy)-2,2-dimethylpropionate prepared from 136 mg of methyl 3-hydroxy-2,2-dimethylpropionate in the same manner as in Reference Example 46 was added to 5 ml dichloromethane solution of 235 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and 0.21 ml of triethylamine. After 12Hours of stirring at room temperature, the reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (hexane-ethyl acetate) to obtain 227 mg of 3-methoxy-2,2-dimethyl-3-oxopropyl (3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate as a colorless amorphous substance.

reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | methyl 3-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}oxy)-2,2-dimethylpropionate | O=C1N(C(CC1)=O)OC(=O)OCC(C(=O)OC)(C)C | C11H15NO7
reactant | methyl 3-hydroxy-2,2-dimethylpropionate | 136 mg | OCC(C(=O)OC)(C)C | C6H12O3
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 235 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | 3-methoxy-2,2-dimethyl-3-oxopropyl (3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate | 227 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OCC(C(=O)OC)(C)C | C35H44N2O6
